US06943168B2
A. Synthesis of 2-(3,4-dimethoxy-phenoxy)-ethanol
K2CO3 (1.07 g, 7.78 mmol) was added to a solution of 3,4,dimethoxyphenol (1.0 g, 6.48 mmol) in dry DMF (15 ml). 2-Bromoethanol (0.81 g, 6.48 mmol) was added, and the mixture was heated overnight at 120° C. The mixture was cooled, taken up in EtOAc, extracted with water (20 ml), saturated NaCl (4×20 ml), dried over MgSO4, and evaporated under reduced pressure. The product was purified by column chromatography on silica (Hexane:EtOAc 3:1) to give the desired product in 60% yield. B. Synthesis of 4-(2-bromo-ethoxy)-1,2-dimethoxy benzene

reactant | K2CO3 | 7.78 mmol, 1.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4,dimethoxyphenol | 6.48 mmol, 1.0 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | 2-Bromoethanol | 6.48 mmol, 0.81 g | BrCCO | C2H5BrO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3,4-dimethoxy-phenoxy)-ethanol | 60% yield | COC=1C=C(OCCO)C=CC1OC | C10H14O4
